US07335674B2
5.9 ml (94.2 mmol; 1.5 equivalents) of methyl iodide is added to 10.8 g (62 mmol) of 2,5-difluorobenzenecarbothioamide in solution in 70 ml of acetone. The reaction mixture is maintained under stirring at 25° C. for 24 hours, then the solvent is evaporated off under reduced pressure. Methyl 2,5-difluorobenzene carbimidothioate hydroiodide is obtained (18.4 g; yield=93%), after crystallization from ethyl ether, in the form of beige powder.

reactant | methyl iodide | 94.2 mmol, 5.9 ml, 1.5 equivalents | CI | CH3I
reactant | 2,5-difluorobenzenecarbothioamide | 62 mmol, 10.8 g | FC1=C(C=C(C=C1)F)C(N)=S | C7H5F2NS
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | Methyl 2,5-difluorobenzene carbimidothioate hydroiodide | yield=93% | I.FC1=C(C=C(C=C1)F)C(=N)SC | InChI=1S/C8H7F2NS.HI/c1-12-8(11)6-4-5(9)2-3-7(6)10;/h2-4,11H,1H3;1H
